### PR TITLE
[Merged by Bors] - feat(Mathlib/Algebra/GCDMonoid): `gcd_ne_zero_iff`s

### PR DESCRIPTION
**Pull request by ShreckYe**
These are the `not_congr`s of `gcd_eq_zero_iff`s, which might be useful as parameters to `rw`/`simp`/`apply` in some cases to simplify some proofs.

### CODE REVIEW

**Review by ShreckYe — COMMENTED** [review]
easy

**Review by ShreckYe — COMMENTED** [review]
easy

**Comment by ShreckYe** [comment]
easy

File: Mathlib/Algebra/GCDMonoid/Finset.lean [hunk 1]
```diff
@@ -186,6 +186,10 @@ theorem gcd_eq_zero_iff : s.gcd f = 0 ↔ ∀ x : β, x ∈ s → f x = 0 := by
     rcases as with ⟨b, ⟨bs, rfl⟩⟩
     apply h b (mem_def.1 bs)
 
+theorem gcd_ne_zero_iff : s.gcd f ≠ 0 ↔ ∃ x ∈ s, f x ≠ 0 := by
+  convert not_congr (gcd_eq_zero_iff)
+  simp
```
Comment (themathqueen) [inline Mathlib/Algebra/GCDMonoid/Finset.lean]:
```suggestion
  simp [gcd_eq_zero_iff]
```

File: Mathlib/Algebra/GCDMonoid/Multiset.lean [hunk 2]
```diff
@@ -151,6 +151,10 @@ theorem gcd_eq_zero_iff (s : Multiset α) : s.gcd = 0 ↔ ∀ x : α, x ∈ s 
     intro a s sgcd h
     simp [h a (mem_cons_self a s), sgcd fun x hx ↦ h x (mem_cons_of_mem hx)]
 
+theorem gcd_ne_zero_iff (s : Multiset α) : s.gcd ≠ 0 ↔ ∃ x ∈ s, x ≠ 0 := by
+  convert not_congr (gcd_eq_zero_iff s)
+  simp
```
Comment (themathqueen) [inline Mathlib/Algebra/GCDMonoid/Multiset.lean]:
```suggestion
  simp [gcd_eq_zero_iff]
```

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks!

maintainer merge

**Comment by bryangingechen** [comment]
Thanks!
bors r+
